US09353108B2
C) Benzyl 4-(1-oxido-5-oxo-5,7,8,9-tetrahydro-6H-pyrido[3,2-c]azepin-6-yl)piperidine-1-carboxylate
m-Chloroperbenzoic acid (2.45 g) was added to a mixture of benzyl 4-(5-oxo-5,7,8,9-tetrahydro-6H-pyrido[3,2-c]azepin-6-yl)piperidine-1-carboxylate (1.8 g) and dichloromethane (50 mL), and the resultant mixture was stirred at room temperature for 3 hours. A 10% aqueous sodium disulfite solution was added to the reaction mixture, and the mixture was stirred for 20 minutes, followed by extraction with dichloromethane. The organic layer was washed with water and saturated saline and dried over sodium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (1.0 g).

reactant | m-Chloroperbenzoic acid | 2.45 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | benzyl 4-(5-oxo-5,7,8,9-tetrahydro-6H-pyrido[3,2-c]azepin-6-yl)piperidine-1-carboxylate | 1.8 g | O=C1N(CCCC2=C1C=CC=N2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C22H25N3O3
reactant | sodium disulfite | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Benzyl 4-(1-oxido-5-oxo-5,7,8,9-tetrahydro-6H-pyrido[3,2-c]azepin-6-yl)piperidine-1-carboxylate | 1.0 g | [O-][N+]1=CC=CC=2C(N(CCCC21)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)=O | C22H25N3O4
